* BFG590W SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT343 DIE MODEL : BFR590
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFG590W 1 2 3
Q1 6 5 7 7 BFR590
* SOT343 parasitic model
               Lb  4 5 .4n
               Le  7 8 .4n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .25n
              Ccb  4 6 50f
              Cbe  4 8 70f
              Cce 6 8 115f
*
* PHILIPS SEMICONDUCTORS                                       Version:    3.0
* Filename:   BFR590.PRM                                       Date:March 1993
*
.MODEL  BFR590   NPN
+(
+              IS = 1.34192E-015
+              BF = 1.23514E+002
+              NF = 9.88056E-001
+             VAF = 7.58515E+001
+             IKF = 9.65644E+000
+             ISE = 2.32200E-013
+              NE = 2.13410E+000
+              BR = 1.02277E+001
+              NR = 1.01686E+000
+             VAR = 1.99263E+000
+             IKR = 2.94173E-001
+             ISC = 2.11091E-016
+              NC = 9.97200E-001
+              RB = 5.00000E+000
+             IRB = 1.00000E-006
+             RBM = 5.00000E+000
+              RE = 1.27556E+000
+              RC = 9.20600E-001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 3.82176E-012
+             VJE = 6.00000E-001
+             MJE = 3.48584E-001
+              TF = 1.36097E-011
+             XTF = 7.17371E+001
+             VTF = 1.02892E+001
+             ITF = 1.92945E+000
+             CJC = 1.40937E-012
+             VJC = 2.19424E-001
+             MJC = 1.66508E-001
+)
.ENDS